US04609398
2-Ethoxy-N-[[4-methoxy-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl]aminocarbonyl]benzenesulfonamide
To 1.9 g of 2-amino-4-(2,2,2-trifluoroethoxy)-6-methoxy-1,3,5-triazine suspended in 50 mL of dry methylene chloride was added 2.4 g of 2-ethoxybenzenesulfonyl isocyanate. The mixture was stirred at ambient temperature for three days, filtered, and the filtrate stripped to an oil which crystallized. The solid was triturated with n-butyl chloride and collected to give 2.94 g of white solid with m.p. 180°-181° (dec).

reactant | 2-amino-4-(2,2,2-trifluoroethoxy)-6-methoxy-1,3,5-triazine | 1.9 g | NC1=NC(=NC(=N1)OCC(F)(F)F)OC | C6H7F3N4O2
reactant | 2-ethoxybenzenesulfonyl isocyanate | 2.4 g | C(C)OC1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H9NO4S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethoxy-N-[[4-methoxy-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl]aminocarbonyl]benzenesulfonamide | 2.94 g | C(C)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OCC(F)(F)F | C15H16F3N5O6S
